### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Presentable): functors which preserve κ-presentable objects

### PR DESCRIPTION
**Pull request by joelriou**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Presentable/PreservesCardinalPresentable.lean [hunk 1]
```diff
@@ -0,0 +1,61 @@
...
+instance (F : C ⥤ D) (G : D ⥤ E) (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    [F.PreservesCardinalPresentable κ] [G.PreservesCardinalPresentable κ] :
+    (F ⋙ G).PreservesCardinalPresentable κ where
+  le_inverseImage_isCardinalPresentable X hX := by
+    simp only [ObjectProperty.prop_inverseImage_iff, comp_obj]
+    infer_instance
+
+lemma PreservesCardinalPresentable.of_iso {F G : C ⥤ D} (e : F ≅ G)
+    (κ : Cardinal.{w}) [Fact κ.IsRegular]
+    [F.PreservesCardinalPresentable κ] :
```
Comment (smorel394) [inline Mathlib/CategoryTheory/Presentable/PreservesCardinalPresentable.lean]:
```suggestion
    (κ : Cardinal.{w}) [Fact κ.IsRegular] [F.PreservesCardinalPresentable κ] :
```

**Comment by smorel394** [comment]
Not much to criticize here. :-( 
I would say that this PR is good to go.

**Comment by dagurtomas** [comment]
Thanks!

maintainer merge

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
